US05053223
Preparation of 1-bromo-3-methylheptane (5)
Phosphorus tribromide (10.44 g, 38.5 mmol) is added dropwise to 95% 3-methyl-1-heptanol (7.7 g, 56.3 mmol) at 0° C. and the mixture is stirred for 5 h at 100° C. The mixture is allowed to cool, poured onto ice, and extracted several times with hexane. The extract is washed with sodium carbonate solution, dried over magnesium sulfate, and evaporated down.

reactant | Phosphorus tribromide | 38.5 mmol, 10.44 g | P(Br)(Br)Br | Br3P
reactant | 3-methyl-1-heptanol | 56.3 mmol, 7.7 g | CC(CCO)CCCC | C8H18O
product | 1-bromo-3-methylheptane | BrCCC(CCCC)C | C8H17Br
